**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Power Molded Chip Inductor
* Matchcode:              WE-PMCI
* Library Type:           LTspice
* Version:                rev26a
* Created/modified by:    Ella
* Date and Time:          9/21/2026
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2026 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 160808_74479262147_0.47u 1 2
Rp 1 2 696.1617
Cp 1 2 3.3274p
Rs 1 N3 0.065
L1 N3 2 0.4478837u
.ends 160808_74479262147_0.47u
*******
.subckt 160808_74479262210_1u 1 2
Rp 1 2 1900
Cp 1 2 2.8p
Rs 1 N3 0.11
L1 N3 2 0.897u
.ends 160808_74479262210_1u
*******
.subckt 201210_74479275147_0.47u 1 2
Rp 1 2 771.3328
Cp 1 2 3.4672p
Rs 1 N3 0.04
L1 N3 2 0.4129216u
.ends 201210_74479275147_0.47u
*******
.subckt 201210_74479275210_1u 1 2
Rp 1 2 1700
Cp 1 2 3.5p
Rs 1 N3 0.07
L1 N3 2 0.897u
.ends 201210_74479275210_1u
*******
.subckt 201210_74479275222_2.2u 1 2
Rp 1 2 2893.1
Cp 1 2 4.567p
Rs 1 N3 0.18
L1 N3 2 2.2099u
.ends 201210_74479275222_2.2u
*******
.subckt 201610_74479276110_0.1u 1 2
Rp 1 2 234.598
Cp 1 2 1.51p
Rs 1 N3 0.0062
L1 N3 2 0.08u
.ends 201610_74479276110_0.1u
*******
.subckt 201610_74479276124_0.24u 1 2
Rp 1 2 436.7871
Cp 1 2 1.5016p
Rs 1 N3 0.017
L1 N3 2 0.2025854u
.ends 201610_74479276124_0.24u
*******
.subckt 201610_74479276147_0.47u 1 2
Rp 1 2 667.2059
Cp 1 2 2.1858p
Rs 1 N3 0.026
L1 N3 2 0.4193016u
.ends 201610_74479276147_0.47u
*******
.subckt 201610_74479276168_0.68u 1 2
Rp 1 2 1063.3
Cp 1 2 2.2361p
Rs 1 N3 0.045
L1 N3 2 0.6512431u
.ends 201610_74479276168_0.68u
*******
.subckt 201610_74479276210_1u 1 2
Rp 1 2 1198.9
Cp 1 2 2.815p
Rs 1 N3 0.055
L1 N3 2 0.9275603u
.ends 201610_74479276210_1u
*******
.subckt 201610_74479276215_1.5u 1 2
Rp 1 2 1777
Cp 1 2 2.69p
Rs 1 N3 0.092
L1 N3 2 1.34u
.ends 201610_74479276215_1.5u
*******
.subckt 201610_74479276222_2.2u 1 2
Rp 1 2 2312.8
Cp 1 2 2.8593p
Rs 1 N3 0.13
L1 N3 2 2.1225u
.ends 201610_74479276222_2.2u
*******
.subckt 201610_74479276247_4.7u 1 2
Rp 1 2 4370
Cp 1 2 2.72p
Rs 1 N3 0.25
L1 N3 2 3.9u
.ends 201610_74479276247_4.7u
*******
.subckt 252010_74479287147_0.47u 1 2
Rp 1 2 658.0022
Cp 1 2 2.4866p
Rs 1 N3 0.025
L1 N3 2 0.430299u
.ends 252010_74479287147_0.47u
*******
.subckt 252010_74479287210_1u 1 2
Rp 1 2 1178
Cp 1 2 3.5213p
Rs 1 N3 0.047
L1 N3 2 0.9094102u
.ends 252010_74479287210_1u
*******
.subckt 252010_74479287215_1.5u 1 2
Rp 1 2 1581
Cp 1 2 3.16p
Rs 1 N3 0.062
L1 N3 2 1.34u
.ends 252010_74479287215_1.5u
*******
.subckt 252010_74479287222_2.2u 1 2
Rp 1 2 3700
Cp 1 2 6p
Rs 1 N3 0.095
L1 N3 2 2u
.ends 252010_74479287222_2.2u
*******
.subckt 252010_74479288247_4.7u 1 2
Rp 1 2 2380
Cp 1 2 4.86p
Rs 1 N3 0.155
L1 N3 2 4.18u
.ends 252010_74479288247_4.7u
*******
.subckt 252010_74479287247_4.7u 1 2
Rp 1 2 3400
Cp 1 2 4.4p
Rs 1 N3 0.225
L1 N3 2 4.499u
.ends 252010_74479287247_4.7u
*******
.subckt 252012_74479288147_0.47u 1 2
Rp 1 2 610.8515
Cp 1 2 2.8298p
Rs 1 N3 0.018
L1 N3 2 0.4350004u
.ends 252012_74479288147_0.47u
*******
.subckt 252012_74479288210_1u 1 2
Rp 1 2 1024.6319
Cp 1 2 3.6497p
Rs 1 N3 0.04
L1 N3 2 1.0341994u
.ends 252012_74479288210_1u
*******
.subckt 252012_74479288215_1.5u 1 2
Rp 1 2 1767.3
Cp 1 2 3.5816p
Rs 1 N3 0.071
L1 N3 2 1.4223u
.ends 252012_74479288215_1.5u
*******
.subckt 252012_74479288222_2.2u 1 2
Rp 1 2 1948.8
Cp 1 2 4.1146p
Rs 1 N3 0.08
L1 N3 2 2.1611u
.ends 252012_74479288222_2.2u
*******
.subckt 322510_74479298147_0.47u 1 2
Rp 1 2 920
Cp 1 2 5.1p
Rs 1 N3 0.018
L1 N3 2 0.47u
.ends 322510_74479298147_0.47u
*******
.subckt 322510_74479298210_1u 1 2
Rp 1 2 1553.8
Cp 1 2 6.3528p
Rs 1 N3 0.044
L1 N3 2 1.0893u
.ends 322510_74479298210_1u
*******
.subckt 322510_74479298222_2.2u 1 2
Rp 1 2 2728.5
Cp 1 2 8.6603p
Rs 1 N3 0.089
L1 N3 2 2.3754u
.ends 322510_74479298222_2.2u
*******
.subckt 322512_74479299147_0.47u 1 2
Rp 1 2 633.9324
Cp 1 2 6.3465p
Rs 1 N3 0.018
L1 N3 2 0.4633103u
.ends 322512_74479299147_0.47u
*******
.subckt 322512_74479299210_1u 1 2
Rp 1 2 1216.6
Cp 1 2 7.2749p
Rs 1 N3 0.032
L1 N3 2 0.8380677u
.ends 322512_74479299210_1u
*******
.subckt 322512_74479299222_2.2u 1 2
Rp 1 2 1802.7
Cp 1 2 10.0672p
Rs 1 N3 0.07
L1 N3 2 2.0184u
.ends 322512_74479299222_2.2u
*******
.subckt 322515_74479290125_0.25u 1 2
Rp 1 2 488.9913
Cp 1 2 4.1722p
Rs 1 N3 0.026
L1 N3 2 0.2493367u
.ends 322515_74479290125_0.25u
*******
